US06858630B2
To an agitated suspension of (S)-pyrrolidine-2-carboxylic acid tert-butyl ester (0.036 g, 0.21 mmol) in DMF (1 mL) was added 2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxyl-3H-naphtho[1,2-d]imidazole-7-sulfonyl chloride (0.064 g, 0.14 mmol) and triethyl amine (0.022 g, 0.21 mmol). After agitated for 15 hrs, the reaction mixture was concentrated under reduced pressure to give (S)-1-[2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-sulfonyl]-pyrrolidine-2-carboxylic acid tert-butyl ester. The crude product was treated with 90% trifluoroacetate acid (2 ml). After agitated for 1 hour, the mixture was concentrated under reduced pressure, then subjected to to HPLC (ODS-A, gradient 10-90% CH3CN/water 0.1% TFA) to provide the title compound (0.006 g, 8%) MS(ES) m/z 542 [M+H].

reactant | (S)-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.21 mmol, 0.036 g | C(C)(C)(C)OC(=O)[C@H]1NCCC1 | C9H17NO2
reactant | 2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxyl-3H-naphtho[1,2-d]imidazole-7-sulfonyl chloride | 0.14 mmol, 0.064 g | CC=1C=C(C=CC1C)C1=CC(=CC=C1)C=1NC2=C(N1)C1=C(C=C(C=C1C=C2)S(=O)(=O)Cl)O | C25H19ClN2O3S
reactant | triethyl amine | 0.21 mmol, 0.022 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-1-[2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-sulfonyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C=CC3=C(N=C(N3)C=3C=C(C=CC3)C3=CC(=C(C=C3)C)C)C2=C(C1)O | C34H35N3O5S
